US04598093
Into a solution of 3.6 g of methyl trans-4-amino-6,7-dichloro-1,2,3,4-tetrahydro-2-naphthoate hydrochloride in 50 ml of methanol and 15 ml of 28% aqueous ammonia, ammonia gas is blown at 30°-40° C. for 8 hours. The solvent is distilled off and water is added. The precipitated crystals are separated by filtration and dissolved in methanol and to the solution is added methanolic hydrochloric acid. Crystals are deposited, separated by suction filtration and recrystallized from methanol to give 1.6 g of trans-4-amino-6,7-dichloro-1,2,3,4-tetrahydro-2-naphthalene carboxamide hydrochloride having a m.p. of above 280° C.

reactant | methyl trans-4-amino-6,7-dichloro-1,2,3,4-tetrahydro-2-naphthoate hydrochloride | 3.6 g | Cl.N[C@H]1C[C@@H](CC2=CC(=C(C=C12)Cl)Cl)C(=O)OC
reactant | ammonia | 15 ml | N | H3N
solvent | methanol | 50 ml | CO | CH4O
product | trans-4-amino-6,7-dichloro-1,2,3,4-tetrahydro-2-naphthalene carboxamide hydrochloride | 1.6 g | Cl.N[C@H]1C[C@@H](CC2=CC(=C(C=C12)Cl)Cl)C(=O)N | InChI=1S/C11H12Cl2N2O.ClH/c12-8-2-5-1-6(11(15)16)3-10(14)7(5)4-9(8)13;/h2,4,6,10H,1,3,14H2,(H2,15,16);1H/t6-,10+;/m1./s1
